US04914112
To triethyl orthoformate (6 ml) was added 3-amino-5-(2-(2-fluoro-4-biphenylyl)ethyl)-1,2,4-oxadiazole (0.10 g, 0.35 mmol). After the mixture was refluxed for 20 h, the mixture was evaporated under reduced pressure to a residue, which was extracted with chloroform after water was added. The extracts were dried with anhydrous potassium carbonate, and evaporated under reduced pressure to a residue, which was chromatographed to afford 3-formylamino-5-(2-(2-fluoro-4-biphenylyl)ethyl)-1,2,4-oxadiazole (0.091 g, 83% yield): NMR(CDCl3)δ 1.86(d, 3H), 4.40(q, 1H), 7.00-7.65(m, 8H), 9.06(broad, 2H) ppm; IR(nujol) 3275, 1740, 1580 cm-1 ; mass m/e 311 (M+).

reactant | triethyl orthoformate | 6 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | 3-amino-5-(2-(2-fluoro-4-biphenylyl)ethyl)-1,2,4-oxadiazole | 0.35 mmol, 0.10 g | NC1=NOC(=N1)CCC1=CC(=C(C=C1)C1=CC=CC=C1)F | C16H14FN3O
product | 3-formylamino-5-(2-(2-fluoro-4-biphenylyl)ethyl)-1,2,4-oxadiazole | 0.091 g, 83% yield | C(=O)NC1=NOC(=N1)CCC1=CC(=C(C=C1)C1=CC=CC=C1)F | C17H14FN3O2
